US06700001B2
Addition of 5-(benzyloxy)-6-but-3-enylquinoline to a suspension of AD-mix-α in water:tert-butyl alcohol following the procedure described for Example 1, step 2 gives (2S)-4-[5-(benzyloxy)quinolin-6-yl]butane-1,2-diol.

reactant | 5-(benzyloxy)-6-but-3-enylquinoline | C(C1=CC=CC=C1)OC1=C2C=CC=NC2=CC=C1CCC=C | C20H19NO
reactant | AD-mix-α | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | (2S)-4-[5-(benzyloxy)quinolin-6-yl]butane-1,2-diol | C(C1=CC=CC=C1)OC1=C2C=CC=NC2=CC=C1CC[C@@H](CO)O | C20H21NO3
